Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ yo man with a history of alcohol abuse 
who presents from an inpatient alcohol detox program with 
altered mental status. Patient is unable to recall much of 
feeling confused, but has only hazy memories of how he was 
feeling prior to transport or of the ride to the hospital. He 
denies any recent LH or syncope. Does not believe he had a 
seizure. Does not believe he has had prior history of alcohol 
withdrawal or hepatic encephalopathy. Does take lactulose as 
outpatient. 

In the ED, initial vitals were T 98.2, BP 126/72, HR 82, RR 18, 
O2sat 99% RA.  He underwent imaging (US abdomen, CT head, CXR) 
with reports as below. No meds, fluids given.

On arrival to the floor, patient denies feeling confused or any 
other acute symptoms. VSS stable as below. Would like to watch 
___ game.

Review of sytems:  Denies fever, chills, night sweats, recent 
weight loss or gain. Denies headache, sinus tenderness, 
rhinorrhea or congestion. Denied cough, shortness of breath. 
Denied chest pain or tightness, palpitations. Denied nausea, 
vomiting, diarrhea, constipation or abdominal pain. Has 2 BM per 
day on average on lactulose. Last BM this morning and was 
normal. No recent change in bowel habits. No dysuria, but 
increased urinary frequency. Denied arthralgias or myalgias, any 
new weakness/numbness/tingling. 
 
Past Medical History:
- ETOH cirrhosis (per patient, no h/o variceal bleed; no h/o HE, 
no h/o massive ascites; does report peripheral edema controlled 
with diuretics; believes he is HBV/HCV negative - last 
documented negative ___ per ___ records)
- Alcoholism (last drink "two days ago" but has been at 
___ x 4 days)
- Traumatic head injury: in coma x 17 days at ___ ___ 
after falling down stairs
- Seizure d/o: As above; denies any interim seizures but note 
from neurologist ___ suggests that patient frequently gets 
seizures when non-compliant with medications
- Depression
- Anxiety
- Hypertension (on captopril)
 
Social History:
___
Family History:
Both parents died of heart disease, both age ___. Reports his 
father also had emphysema. Sisters, children in good health.

 
Physical Exam:
VS: T=96.6 ax, BP=158/92, HR=65, RR=20, O2 sat=99% RA
GENERAL: Disheveled Caucasian man in NAD. Oriented to place 
___ date ___ month ___ but states 
day of month is the ___. Able to name ___ as president and 
___ as VP. Affect somewhat off, but not inappropriate or 
combative; cooperates with exam.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  
 
NECK: Supple with no JVD.
CARDIAC: RRR, no M/R/G
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
BACK: No vertebral body, CVA or SI tenderness
ABDOMEN: Soft, NTND. Small umbilical hernia right at umbilicus, 
reducible. Liver margin firm/palpable. Spleen not palpable. 
EXTREMITIES: Bilateral edema with mild pitting to mid-shins. 2+ 
DP pulses.
SKIN: No significant telangectasias, jaundice or caput medusae. 
No palmar erythema. Multiple nails of hands and feet with 
evidence of onychomycosis. R foot with multiple excoriations on 
toes, heel, sole.
NEURO: CN II-XII intact, although patient has trouble following 
directions for eye movements. Sensation to light touch intact 
bilaterally. Strength ___ in all major muscle groups except for 
plantar flexion of toes of right foot, which is impaired (per 
patient, for ~ 6 weeks). No asterixis. Gait not assessed.

 
Pertinent Results:
Labs on admission:
___ 12:26PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-4* PH-7.0 
LEUK-NEG
___ 12:26PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:26PM   PLT SMR-VERY LOW PLT COUNT-69*
___ 12:26PM   NEUTS-62.6 ___ MONOS-11.1* EOS-3.5 
BASOS-0.8
___ 12:26PM   WBC-2.4* RBC-3.30* HGB-11.6* HCT-35.4* 
MCV-107* MCH-35.1* MCHC-32.7 RDW-14.8
___ 12:26PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 12:26PM URINE  HOURS-RANDOM
___ 12:26PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:26PM   AMMONIA-61*
___:26PM   LIPASE-44
___ 12:26PM   ALT(SGPT)-15 AST(SGOT)-45* ALK PHOS-112 TOT 
BILI-2.9* DIR BILI-1.3* INDIR BIL-1.6
___ 12:26PM   estGFR-Using this
___ 12:26PM   GLUCOSE-106* UREA N-9 CREAT-0.7 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-27 ANION GAP-12

___ ECG: Normal sinus rhythm. Intraventricular conduction 
delay. Early R wave across the precordium. Q-T interval 
prolonged for rate. Non-specific ST-T wave abnormalities. No 
previous tracing available for comparison.  

___ CXR: FRONTAL AND LATERAL VIEWS OF THE CHEST: Lungs are 
clear with no pneumonia or congestive heart failure. There is no 
pneumothorax or pleural effusion. Mild irregularity of the 
left-sided ribs is compatible with old fractures. Heart, 
mediastinum, and hila are normal. Low thoracic spine vertebral 
compression deformity is noted, age indeterminate. IMPRESSION: 
No evidence of acute intrathoracic abnormality. Old left rib 
fractures and compression deformity of a low thoracic vertebral 
body, age indeterminate. 

___ Head CT: FINDINGS: There is no evidence of intracranial 
hemorrhage, edema, masses, mass effect, or acute territorial 
infarction. Subcortical left frontal lobe hypodensity likely 
represents encephalomalacia due to chronic vascular infarct. The 
gray-white matter differentiation is well preserved. The 
ventricles and sulci are normal in size and configuration. 
Scattered periventricular white matter hypoattenuation is likely 
the sequela of chronic small vessel infarction. Aerated 
secretions in the right maxillary sinus. The mastoid air cells 
and
remainder of the paranasal sinuses are clear and well aerated. 
IMPRESSION: 1. Left frontal lobe hypodensity likely represents 
encephalomalacia due to 
chronic vascular infarct.  2. No acute intracranial process. 3. 
Aerated secretions in the right maxillary sinus.  

___ Abdominal CT with Doppler: FINDINGS: No focal liver 
lesion is identified. No biliary dilatation is seen and the 
common duct measures 0.6 cm. Multiple small echogenic foci 
adherent to the gallbladder wall likely represent small 
cholesterol polyps. No gallstones are identified. The spleen is 
again noted to be enlarged measuring 16.2 cm. Mild ascites is 
identified in the abdomen. DOPPLER EXAMINATION: Color Doppler 
and pulse-wave Doppler images were obtained. The main portal 
vein, right portal vein and left portal vein are patent with 
hepatopetal flow. The main hepatic artery is patent with 
appropriate arterial waveforms. 

 
Brief Hospital Course:
The following issues were addressed at this admission:

#. Altered Mental Status: The patient's mental status was noted 
to wax and wane over the course of this admission. At best, the 
patient was fully oriented to person, place and time but with 
continued poor insight into his health and addictions. 
Frequently, the patient was unable to state date or name of 
hospital correctly and was noted to confabulate. Acute issues 
that may have contributed to this presentation include hepatic 
encephalopathy (patient was treated with increasing doses of 
lactulose and started on rifaximin; he had elevated ammonia 
level on admission to 61, though never developed asterixis) and 
alcohol withdrawal (had one episode on hospital day #1 of 
agitation/nausea/vomiting which resolved with 5 mg PO diazepam). 
He had a negative CT scan and abdominal ultrasound with Doppler 
showed normal portal flow. Stool was guaiac-negative and there 
was no evidence of bleed. However, after review of his medical 
records including recent progress note from his neurologist and 
discussion with his family members, it seems that some of his 
presentation and waxing/waning mental status may be due to his 
traumatic brain injury. He may also have an element of permanent 
Korsakoff's psychosis from years of alcohol abuse. He was not 
noted to have any evidence of seizure during his inpatient stay, 
although unobserved seizure at outside facility with resulting 
post-ictal state is also possible.  Patient's mental status 
dramatically improved with the absence of alcohol and increased 
lactulose dosing.  Patient was consistently alert and oriented 
in the days prior to discharge.
.
#  Liver disease: The patient's imaging and labs (mildly 
elevated transaminases and total bilirubin, elevated INR, and 
thrombocytopenia) are consistent with chronic alcoholic 
cirrhosis. Elevated MCV and low WBC support chronic alcoholism. 
HBV and HCV serologies were repeated during this admission and 
were negative. The patient was continued on his diuretics; 
lactulose was increased and rifaximin added as above. Patient 
was scheduled follow up with Dr. ___.  He was unable to 
name his hepatologist in ___, ___.  He is advised to 
obtain his medical records from this physician prior to his 
appointment with Dr. ___ he can remember the name or address 
of the hepatologist.
.
# Alcohol abuse: Patient was actively drinking until checking 
into ___. According to his family members, 
although patient expresses a desire to quit drinking, he is 
unable to do so - he will drink at any opportunity. He was 
monitored on a CIWA scale and had one potential episode of 
withdrawal on hospital day #1 as above, but no further episodes. 
Social work consult was called for coping/support. He was 
continued on thiamine, folate, and multivitamin. He plans to 
report to an inpatient alcohol addiction program on day of 
discharge.
.
# HTN: Mildly hypertensive on arrival to floor. BPs were 
generally well-controlled on home captopril.
.
# Pancytopenia: Blood levels were stable while in house. Likely 
chronic and secondary to cirrhosis and alcoholism as above.
.
# Heartburn. The patient complained of frequent heartburn during 
this admission. He was treated symptomatically with Tums and 
started on omeprazole.
.
# Capacity, self-care. Patient formerly had a guardian, but 
evidently was able to have guardianship revoked without medical 
evaluation. On presentation he displayed very poor insight into 
his condition and has demonstrated an inability to care for 
himself or manage his finances per his family. Therefore, a 
psych evaluation was called with resulting recommendation to 
pursue guradianship for this patient. A family meeting was held 
to discuss this situation; three of the patient's sisters ___, 
___ and his two children were present in addition to 
representatives from social work, medicine and psych services, 
and case management. His health care proxy (niece ___ and 
another sister joined the meeting by telephone. His family 
members expressed great concern for the patient's health and 
future and believe that he will require a guardian going 
forward, as well as an ___ facility to help him to care 
for his medical and psychiatric/addiction needs.  Patient's 
mental status, however, significantly improved with the abscence 
of alcohol and with increased lactulose dosing. The days prior 
to discharge the patient was consistently oriented and expressed 
greater insight into his health problems.  He recognized the 
concern for his ability to make decisions but felt confident 
that if he took his medications as directed and abstained from 
alcohol that his mental status would not be an obstacle for 
self-care.  The patient requested information on inpatient 
alcohol addiction programs and follow up appointments with a new 
primary care provider and hepatologist.  At this point he was 
found to have capacity and the pursuit of a guardian was no 
longer indicated.  The patient was ultimately discharged home 
with his family who will take him to an inpatient alcohol 
facility where he has a bed reserved.
.
CODE: Full code  
.
Contact: States sister ___ is HCP: ___ however ___ 
___ has recently signed HCP paperwork for admission to 
___: ___. 
.
DISPO: Patient currently homeless. Family agreed to pick him up 
and take him to an alcohol addiction program.
 
Medications on Admission:
MEDICATIONS (per ___ records): 
- Lorazepam 1 mg PO BID (day ___ = ___ got one dose morning 
of admission)
- Folic acid 1 mg PO daily 
- Spironolactone 100 mg PO daily
- Furosemide 40 mg PO daily
- Captopril 25 mg PO BID
- Lactulose 30 ml PO TID
- Keppra 1000 mg PO BID
- KCl 10 mEq PO daily
- Thiamine 100 mg PO daily
- MVI 1 tab PO daily
 
Discharge Medications:
1. Spironolactone 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Levetiracetam 500 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).
Disp:*120 Tablet(s)* Refills:*2*
4. Captopril 25 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
5. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
6. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
7. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
8. Lactulose 10 gram/15 mL Syrup Sig: Sixty (60) ML PO Q3H 
(every 3 hours).
Disp:*1 bottle* Refills:*4*
9. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO QID (4 times a day) as needed for dyspepsia.
Disp:*60 Tablet, Chewable(s)* Refills:*0*
10. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
11. Rifaximin 550 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).
Disp:*60 Tablet(s)* Refills:*2*
12. Ferrous Sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO TID (3 times a day).
Disp:*90 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- Altered mental status
- Hepatic encephalopathy
- Alcohol abuse/withdrawal

SECONDARY:
- History of traumatic brain injury
- Seizure disorder

 
Discharge Condition:
Mental Status: alert, oriented x 3, occasional confabulation and 
distractability
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were transferred to ___ 
after staff at the ___ found you to be 
very confused and disoriented. Your confusion is most likely due 
to a combination of factors, including alcohol, liver disease, 
and brain injury from your fall ___ years ago. You were treated 
with lactulose and over the next several days your mental status 
significantly improved. You can minimize the likelihood of 
becoming confused in the future by doing the following:

1. Stop drinking ALL alcohol (including alternative sources of 
alcohol such as mouthwash). This will worsen your liver disease 
and can lead to falls and other injuries. There are many 
resources to help you stop drinking alcohol. Please ask your 
health care providers if you feel you need additional 
assistance.

2. Take your medications as prescribed. This will help to 
minimize complications from your liver disease (without the 
medications, you will ___ develop a dangerous state of 
confusion called hepatic encephalopathy) as well as from 
seizures (prolonged seizures deprive the brain of oxygen and can 
worsen your brain injuries).

We have made the following changes to your medication regimen:
- INCREASE DOSE of lactulose to 60 ml every ___ hours, or more 
if needed. *** Please note that it is the number of bowel 
movements that you have (and NOT the amount of lactulose that 
you take) that reduces your risk of hepatic encephalopathy. 
Therefore, if you are not having at least ___ bowel movements 
per day, you need to increase the amount of lactulose that you 
take. 
- BEGIN TAKING rifaximin 550 mg by mouth twice daily (this 
medication will also help to reduce your risk of hepatic 
encephalopathy)
- BEGIN TAKING omeprazole 40 mg by mouth daily (this medication 
will help to reduce the risk of heartburn)
 
Followup Instructions:
___